US04910200
(a) 3,4-Dimethoxy-4'-fluoro-benzophenone
Veratrole (29.3 g) was added, while stirring, to a mixture of aluminum chloride (34 g) and 4-fluorobenzoyl chloride (35 g) which had been cooled to 0° C., and the resulting mixture allowed to stand for 12 hours at room temperature. It was then boiled for 1 hour. The reaction mixture was then decomposed with water/HCl and extracted with chloroform.

reactant | Veratrole | 29.3 g | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | aluminum chloride | 34 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-fluorobenzoyl chloride | 35 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | water HCl | O.Cl
product | 3,4-Dimethoxy-4'-fluoro-benzophenone | COC=1C=C(C(=O)C2=CC=C(C=C2)F)C=CC1OC | C15H13FO3
